US05714487
A solution of 1.75 g (8.84 mmol) of (7S,8aS)-7-methoxycarbonyl-1,2,3,4,6,7,8,8 a-octahydro-pyrrolo[1,2-a]pyrazin-1-one (Preparation 11) in 100 mL of THF was added dropwise to a suspension of 0.67 g (18 mmol) of lithium aluminum hydride in 100 mL of refluxing THF. After stirring for 1 h, the solution was cooled and carefully quenched with 0.67 mL of water, 0.67 mL of 15% sodium hydroxide, and 2.0 mL of water. The precipitate was filtered and the filtrate was concentrated to give 1.4 g of (7S,8aS)-7-hydroxymethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine of sufficient purity for use in subsequent reactions.

reactant | (7S,8aS)-7-methoxycarbonyl-1,2,3,4,6,7,8,8 a-octahydro-pyrrolo[1,2-a]pyrazin-1-one | 8.84 mmol, 1.75 g | COC(=O)[C@H]1C[C@@H]2N(CCNC2=O)C1 | C9H14N2O3
reactant | lithium aluminum hydride | 18 mmol, 0.67 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (7S,8aS)-7-hydroxymethyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 1.4 g | OC[C@H]1C[C@@H]2N(CCNC2)C1 | C8H16N2O
